US03948928
5-Methoxy-1,2-benzisoxazole-3-acetamidoxime
In ethanol (20 ml) was dissolved 5-methoxy-1,2-benzisoxazole-3-acetonitrile (2.0 g) and thereto was added a solution of hydroxylamine hydrochloride (0.88 g) and sodium carbonate (1.34 g) in water (10 ml). After heating the mixture on water bath at 70° to 80°C for 3 hours, ethanol was distilled off under a reduced pressure. To the residue was added water and the precipitated crystallines were separated by filtration, washed with water and dried to give the desired compound (1.8 g), which was recrystallized from ethanol. m.p. 180° to 183°C.

reactant | 5-methoxy-1,2-benzisoxazole-3-acetonitrile | 2.0 g | COC=1C=CC2=C(C(=NO2)CC#N)C1 | C10H8N2O2
reactant | hydroxylamine hydrochloride | 0.88 g | Cl.NO
reactant | sodium carbonate | 1.34 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 5-Methoxy-1,2-benzisoxazole-3-acetamidoxime | 1.8 g | COC=1C=CC2=C(C(=NO2)CC(N)=NO)C1 | C10H11N3O3
